US06476040B1
Preparation of N-(3-ethynylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, monohydrochloride
4-[3-[[6,7-Bis(2-methoxyethoxy]-4-quinazolinyl]amino]phenyl]-2-methyl-3-butyn-2-ol, monohydrochloride, prepared as described above (32.34 g, 66.3 mmol), water (300 mL) and butan-1-ol (600 mL) were stirred together at room temperature to form a mixture. The pH of the mixture was adjusted to pH 10-12 with 50% aqueous sodium hydroxide solution to give two clear layers. The organic layer was separated from the aqueous layer and concentrated under atmospheric pressure, so that water was azeotropically removed from the butan-1-ol solution. The final volume of butan-1-ol solution was ˜300 mL. Anhydrous solid sodium hydroxide (0.13 g, 3.3 mmol) was added to the azeotropically dried butan-1-ol solution and the resultant mixture was heated under reflux at 115-120° C. for 24 hours. Butan-1-ol (150 mL) was removed by distillation and the concentrated reaction mixture cooled to 15-25° C. Concentrated hydrochloric acid (6.1 mL) and butan-1-ol (60 mL) were added to the cooled concentrate and the mixture was granulated overnight at 20-25° C. to establish crystallization. The title product crystals were isolated by filtration and dried under vacuum at 45-50° C. to remove butan-1-ol. Yield (21.0 g, 73.7%). Purity by HPLC 96.5%.

reactant | 4-[3-[[6,7-Bis(2-methoxyethoxy]-4-quinazolinyl]amino]phenyl]-2-methyl-3-butyn-2-ol, monohydrochloride | Cl.COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC=1C=C(C=CC1)C#CC(C)(O)C
reactant | water | 300 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 3.3 mmol, 0.13 g | [OH-].[Na+]
reactant | hydrochloric acid | 6.1 mL | Cl | ClH
solvent | butan-1-ol | 60 mL | C(CCC)O | C4H10O
solvent | butan-1-ol | 600 mL | C(CCC)O | C4H10O
product | N-(3-ethynylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, monohydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | InChI=1S/C22H23N3O4.ClH/c1-4-16-6-5-7-17(12-16)25-22-18-13-20(28-10-8-26-2)21(29-11-9-27-3)14-19(18)23-15-24-22;/h1,5-7,12-15H,8-11H2,2-3H3,(H,23,24,25);1H
